US08378104B2
Step F: 7-bromo-5-nitro-benzo[d]isothiazole
A mixture of 3-bromo-2-tert-butylsulfanyl-5-nitro-benzaldehyde oxime (1.98 g, 5.97 mmol) and p-toluenesulfonic acid (567 mg, 2.98 mmol) in n-butanol (20 mL) was heated to reflux for 16 h. The reaction mixture was cooled and concentrated. The residue was treated with water followed by saturated sodium bicarbonate solution and then was extracted with dichloromethane (3×20 mL). The combined organic fractions were washed with water, dried over sodium sulfate, filtered and concentrated. Purification by column chromatography (20% ethyl acetate:hexanes) afforded 1.0 g (65%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 9.21 (s, 1H), 8.95 (s, 1H), 8.59 (s, 1H).

reactant | 3-bromo-2-tert-butylsulfanyl-5-nitro-benzaldehyde oxime | 5.97 mmol, 1.98 g | BrC=1C(=C(C=NO)C=C(C1)[N+](=O)[O-])SC(C)(C)C | C11H13BrN2O3S
reactant | p-toluenesulfonic acid | 2.98 mmol, 567 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | n-butanol | 20 mL | C(CCC)O | C4H10O
product | 7-bromo-5-nitro-benzo[d]isothiazole | 1.0 g, 65% | BrC1=CC(=CC=2C=NSC21)[N+](=O)[O-] | C7H3BrN2O2S
